US07465726B2
5-Amino-3-thiazol-5-ylpyridin-2-ol
A solution of 5-nitro-3-thiazol-5-ylpyridin-2-ol (218 mg, 0.977 mmol) and 10% Pd/C (100 mg) in methanol (5 mL) was hydrogenated under 1 atm at rt for 5 h. The resulting mixture was filtered through a Celite pad. The filtrate was concentrated under reduced pressure to give 170 mg of the title compound, which was used directly in the next step without purification. 1H-NMR (DMSO-d6, 400 MHz): δ=4.38 (s, br, 2H), 6.78 (d, J=2.8 Hz, 1H), 7.80 (d, J=2.8 Hz, 1H), 8.41 (s, 1H), 8.97 (s, 1H), 11.52 (s, br, 1H). MS (ES+): m/z 194.15 [MH+]. HPLC: tR=0.49 and 0.90 min (ZQ2000, polar—5 min).

reactant | 5-nitro-3-thiazol-5-ylpyridin-2-ol | 0.977 mmol, 218 mg | [N+](=O)([O-])C=1C=C(C(=NC1)O)C1=CN=CS1 | C8H5N3O3S
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 5-Amino-3-thiazol-5-ylpyridin-2-ol | 170 mg | NC=1C=C(C(=NC1)O)C1=CN=CS1 | C8H7N3OS
